US06908935B2
Step 3) 4-methoxy-3-(2-methylbenzoxazol-5-yl)benzenecarboxaldehyde
A solution of 5-formyl-2-methoxybenzeneboronic acid (1 g, 5.6 mmol), 2-methyl-5-bromobenzoxazole (1 g, 4.72 mmol) and K2CO3 (1.63 g, 11.8 mmol) in ethanol (20 mL) and toluene (40 mL) was degassed prior to addition of Pd(Ph3)4 (55 mg, 0.047 mmol). The mixture was refluxed for 20 hours then cooled and filtered through diatomaceous earth. The filtrate was concentrated in vacuo, extracted with ethyl acetate, washed with water and the organic layer dried over sodium sulphate. The crude was purified by column chromatography (heptane/ethyl acetate 7/3 to 6/4) to give 1.13 g of title compound.

reactant | 5-formyl-2-methoxybenzeneboronic acid | 5.6 mmol, 1 g | C(=O)C=1C=CC(=C(C1)B(O)O)OC | C8H9BO4
reactant | 2-methyl-5-bromobenzoxazole | 4.72 mmol, 1 g | CC=1OC2=C(N1)C=C(C=C2)Br | C8H6BrNO
reactant | K2CO3 | 11.8 mmol, 1.63 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-methoxy-3-(2-methylbenzoxazol-5-yl)benzenecarboxaldehyde | 1.13 g | COC1=C(C=C(C=C1)C=O)C=1C=CC2=C(N=C(O2)C)C1 | C16H13NO3
